US06670372B2
Platinum on carbon (0.08 g of 10%) was added to a mixture of benzyl N-(1-{2-[(3-{2-methyl-5-[(methylamino)sulfonyl]phenyl}-2-propynyl)oxy]ethyl}-1H-imidazo[4,5-c]quinolin-4-yl)carbamate (0.3 g, 0.51 mmol) and methanol (10 mL). The mixture was hydrogenated on a Parr apparatus at 40 psi (2.8 Kg/cm2) for 16 hours. Analysis by LC-MS indicated alkyne reduction but no phenoxycarbonyl removal. Palladium on carbon (0.1 g of 10%) was added and the reaction mixture was hydrogenated at 40 psi (2.8 Kg/cm2) for 8 hours. Analysis by LC-MS indicated only a small amount of phenoxycarbonyl removal. Palladium black (0.1 g) was added and the reaction mixture was hydrogenated at 40 psi (2.8 Kg/cm2) for 16 hours. Analysis by LC-MS indicated one major product with a mass consistent with the desired product. The reaction mixture was filtered and the filtrate was washed with methanol and dichloromethane. The solvents were removed under reduced pressure to provide an off-white powder. This material was recrystallized from acetonitrile to provide 0.11 g of N1,4-dimethyl-3-{3-[2-(4-amino-1H imidazo[4,5-c]quinolin-1-yl)ethoxy]propyl}-1-benzensulfonamide as a light yellow crystalline solid, m.p. 207-209° C.

reactant | benzyl N-(1-{2-[(3-{2-methyl-5-[(methylamino)sulfonyl]phenyl}-2-propynyl)oxy]ethyl}-1H-imidazo[4,5-c]quinolin-4-yl)carbamate | 0.51 mmol, 0.3 g | CC1=C(C=C(C=C1)S(=O)(=O)NC)C#CCOCCN1C=NC=2C(=NC=3C=CC=CC3C21)NC(OCC2=CC=CC=C2)=O | C31H29N5O5S
catalyst | Platinum on carbon | 0.08 g | [Pt] | Pt
solvent | methanol | 10 mL | CO | CH4O
product | N1,4-dimethyl-3-{3-[2-(4-amino-1H imidazo[4,5-c]quinolin-1-yl)ethoxy]propyl}-1-benzensulfonamide | 0.11 g | CNS(=O)(=O)C1=CC(=C(C=C1)C)CCCOCCN1C=NC=2C(=NC=3C=CC=CC3C21)N | C23H27N5O3S
